US04849434
To 50 ml of toluene were added 5.0 g (0.025 mole) of α-(4-chlorophenyl)-α-mercaptoacetic acid prepared in Referential Example 4, 2.64 g (0.025 mole) of nicotinic aldehyde and 5.75 g (0.074 mole) of a 40% aqueous methylamine solution, and the mixture was subjected to azeotropic dehydration for 3 hours. The reaction mixture was cooled, and concentrated under reduced pressure. The residue obtained was purified by silica gel chromatography (5% acetone-chloroform) and recrystallized from ether to give 6.59 g (87.6% yield of 5-(4-chlorophenyl)-3-methyl-2-(3-pyridyl)-thiazolidin-4-one, m.p. 100° to 101.5° C. (uncorrected).

reactant | α-(4-chlorophenyl)-α-mercaptoacetic acid | 0.025 mole, 5.0 g | ClC1=CC=C(C=C1)C(C(=O)O)S | C8H7ClO2S
reactant | nicotinic aldehyde | 0.025 mole, 2.64 g | C1=CC(=CN=C1)C=O | C6H5NO
reactant | methylamine | CN | CH5N
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(4-chlorophenyl)-3-methyl-2-(3-pyridyl)-thiazolidin-4-one | 87.6% yield | ClC1=CC=C(C=C1)C1C(N(C(S1)C=1C=NC=CC1)C)=O | C15H13ClN2OS
